US04987135
2.0 g of 4-(5-chloro-2-pyrimidinyloxy)-3-methylaniline and 1.3 ml of triethylamine were dissolved in 20 ml of tetrahydrofuran, and 1.12 ml of valeryl chloride was dropwise added thereto under cooling with ice. The mixture was reacted at room temperature for 40 minutes under stirring. After completion of the reaction, the reaction product was poured into water and extracted with ethyl acetate. The extract layer was washed with a saturated aqueous solution of sodium chloride and dried over Glauber's salt. Then, ethyl acetate was distilled off to obtain 2.8 g of N-[4-(5-chloro-2-pyrimidinyloxy)-3-methylphenyl]valeramide (Intermediate Compound No. 13) (melting point: 146°-150° C.)

reactant | 4-(5-chloro-2-pyrimidinyloxy)-3-methylaniline | 2.0 g | ClC=1C=NC(=NC1)OC1=C(C=C(N)C=C1)C | C11H10ClN3O
reactant | triethylamine | 1.3 ml | C(C)N(CC)CC | C6H15N
reactant | valeryl chloride | 1.12 ml | C(CCCC)(=O)Cl | C5H9ClO
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-[4-(5-chloro-2-pyrimidinyloxy)-3-methylphenyl]valeramide | 2.8 g | ClC=1C=NC(=NC1)OC1=C(C=C(C=C1)NC(CCCC)=O)C | C16H18ClN3O2
